US07348425B2
A solution of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (20 g, 60 mmol) and LiOH (3.8 g, 160 mmol) in MeOH/THF/H2O (1:1:1, 300 mL) was heated at 90° C. for 2 h. The reaction mixture was cooled in an ice/H2O bath, neutralized with 1M HCl (˜160 mL) diluted with H2O (250 mL) and stirred for 1 h at rt. The precipitates were collected by filtration rinse with H2O and dried to yield 2-bromo-3-cyclohexyl-1H-indole-6-carboxylic acid (quant.) which was used without further purification.

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 60 mmol, 20 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | LiOH | 160 mmol, 3.8 g | [Li+].[OH-]
reactant | HCl | 1M, ˜160 mL | Cl | ClH
solvent | MeOH THF H2O | 300 mL | CO.C1CCOC1.O
solvent | H2O | 250 mL | O | H2O
product | 2-bromo-3-cyclohexyl-1H-indole-6-carboxylic acid | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)O | C15H16BrNO2
